* Schematics Netlist *



V_VCC         $N_0001 0 12V
R_R1         0 $N_0002  4.5k  
M_M1         $N_0002 $N_0002 $N_0001 $N_0001 Mbreakp           
M_M2         $N_0003 $N_0002 $N_0001 $N_0001 Mbreakp           
R_RL         0 $N_0003  3.3K  
