* Schematics Netlist *



C_C1         0 $N_0001  100n  
V_VCC         $N_0002 0 10V
M_M1         $N_0001 $N_0003 $N_0002 $N_0002 Mbreakn           
V_Vi         $N_0003 0 10V
M_M2         $N_0001 $N_0003 0 0 MbreakP-X           
