* Schematics Netlist *



R_R2         $N_0002 $N_0001  1k  
R_R1         $N_0003 $N_0001  1k  
R_R5         0 $N_0001  100k  
C_C2         $N_0002 0  10uF  
D_D1         0 $N_0004 D1N750 
V_V1         $N_0001 0 10V
X_U3         0 $N_0005 Sw_tOpen PARAMS: tOpen=0 ttran=1m Rclosed=0.01
+  Ropen=1Meg
V_V2         $N_0005 0 0V
M_M1         $N_0003 0 0 0 Mbreakn           
D_D2         0 0 D1N750 
C_C1         $N_0004 $N_0003  10uF  
R_R4         $N_0004 $N_0001  100k  
M_M2         $N_0002 $N_0004 0 0 Mbreakn           
