* Schematics Netlist *



V_V3         $N_0001 0 12V
R_R3         $N_0002 $N_0001  1k  
R_R1         $N_0003 $N_0001  1k  
R_R2         0 $N_0004  1k  
M_M1         $N_0004 $N_0005 $N_0002 $N_0002 MbreakP-X           
M_M2         $N_0003 $N_0006 $N_0004 $N_0004 MbreakN-X           
V_V1         $N_0006 0 2V
V_V2         $N_0005 0 7V
