* Schematics Netlist *



C_C1         0 $N_0001  100n  
M_M2         $N_0001 $N_0002 0 0 Mbreakn           
V_VCC         $N_0003 0 10V
M_M1         $N_0001 $N_0002 $N_0003 $N_0003 Mbreakp           
V_V2         $N_0002 0 0V
