* Schematics Netlist *



V_VCC         $N_0001 0 10V
R_Rb         $N_0003 $N_0002  47k  
R_Rc         $N_0004 $N_0001  180  
Q_Q2         $N_0004 $N_0003 0 Q2N2222
V_VBB         $N_0002 0 1.10V
