* Schematics Netlist *



D_D2         $N_0001 $N_0002 D1N4002 
D_D3         $N_0003 $N_0004 D1N4002 
R_R5         $N_0006 $N_0005  1k  
R_R3         $N_0007 $N_0006  1k  
R_R1         0 $N_0007  1k  
D_D5         $N_0008 $N_0006 D1N4002 
R_R6         $N_0008 $N_0003  1k  
R_R2         $N_0009 $N_0002  1k  
D_D4         $N_0007 $N_0009 D1N4002 
V_V1         $N_0001 0 10V
V_V3         $N_0003 $N_0002 10V
V_V2         $N_0004 $N_0005 10V
