* Schematics Netlist *



D_D1         $N_0001 $N_0002 D1N750 
D_D2         $N_0001 0 D1N750 
R_R1         $N_0003 $N_0002  1k  
V_V2         $N_0003 0  
+SIN 0 10V 1kHz 0 0 0
