* Schematics Netlist *



V_V1         $N_0001 0 5V
D_D1         $N_0001 $N_0002 D1N4002 
C_C1         $N_0003 $N_0002  100n  
V_V2         $N_0003 0  
+SIN 0 10V 1000Hz 0 0 0
