* Schematics Netlist *



V_VCC         $N_0001 0 0V
V_VBB         $N_0002 0 0V
Q_Q1         $N_0004 $N_0003 0 Q2N2222
R_R1         $N_0002 $N_0003  47k  
R_R3         $N_0004 $N_0001  180  
