* Schematics Netlist *



C_C3         $N_0001 Output  30uF  
R_RF         $N_0001 Output  600  
X_U4         $N_0002 $N_0001 $N_0003 0 Output LM741
R_Rin         0 $N_0001  1K  
R_Rm         0 $N_0002  500  
R_Rfrs         $N_0002 $N_0003  300  
V_V21         $N_0003 0 DC 0V AC 5v 
