* Schematics Subcircuit *


.SUBCKT Projeto 
X_U4         $N_0001 $N_0002 $N_0003 0 Output LM741
R_R         0 $N_0001  500  
R_Rfrs         $N_0001 $N_0003  300  
R_RF         $N_0002 Output  600  
V_V1         $N_0003 0 5V
R_Rin         0 $N_0002  1000  
C_C3         0 $N_0002  30uF  
.ENDS    Projeto
